US07132436B2
2,4-Dichloro-6-methyl-N-[4-(3-nitrophenyl)-1,3-thiazol-2-yl]benzenesulfonamide
The title compound was prepared from 2-amino-4-(-3-nitrophenyl)thiazole and 2,4-dichloro-6-methylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a yellow solid (27.3 mg) with purity >90%. MS (pos) m/z 444.0, 446.0.

reactant | 2-amino-4-(-3-nitrophenyl)thiazole | NC=1SC=C(N1)C1=CC(=CC=C1)[N+](=O)[O-] | C9H7N3O2S
reactant | 2,4-dichloro-6-methylbenzenesulfonyl chloride | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)Cl | C7H5Cl3O2S
product | 2,4-Dichloro-6-methyl-N-[4-(3-nitrophenyl)-1,3-thiazol-2-yl]benzenesulfonamide | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)NC=1SC=C(N1)C1=CC(=CC=C1)[N+](=O)[O-] | C16H11Cl2N3O4S2
